US05854268
2. (3R)-3-[(4-Fluorobenzylsulfinyl)methyl]pyrrolidine
Using a similar procedure to that described in Example 93, step 2, (3R)-1-(tert-butoxycarbonyl)-3-[(4-fluorobenzylsulfinyl)methyl}pyrrolidine (0.5149 g, 1.51 mmol) was reacted with trifluoroacetic acid (2ml) in dichloromethane (6ml) to give, after work up, 0.3447 g (95%) of the title compound as a white solid, which was used without further purification. δH (360 MHz, CDCl3) 1.57 (1H, m), 2.13 (1H, m), 2.54-2.72 (4H, m), 3.05 (2H, m), 3.27 (1H, m), 3.96 (2H, m), 708 (2H, t, J=8.6 Hz), 7.26-7.30 (2H, m).

reactant | (3R)-1-(tert-butoxycarbonyl)-3-[(4-fluorobenzylsulfinyl)methyl}pyrrolidine | 1.51 mmol, 0.5149 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)CS(=O)CC1=CC=C(C=C1)F | C17H24FNO3S
reactant | trifluoroacetic acid | 2ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 6ml | ClCCl | CH2Cl2
product | (3R)-3-[(4-Fluorobenzylsulfinyl)methyl]pyrrolidine | FC1=CC=C(CS(=O)C[C@H]2CNCC2)C=C1 | C12H16FNOS
